US04215127
1H-1,2,4-Triazole (2.83 g, 0.041 mole) was added to a stirred solution of 14.6 g (0.041 mole) of 1-bromo-1-(2,4-dichlorophenoxy)-3-methoxy-3-methyl-2-butanone in 100 ml. of acetone at -10° C. To the resulting mixture, 6.09 g (0.041 mole) of 1,5-diazabicyclo[5.4.0]-undec-5-ene was added at a rate to maintain the temperature of the mixture below -5° C. After the addition was complete, the mixture was stirred an additional 30 minutes at 0° C. Then the solvent was evaporated off, the residue taken up in 300 ml. diethyl ether, and the resulting mixture extracted with water. The organic phase was dried using MgSO4 and the solvent evaporated. The residual yellow oil (13 g) was stirred for several minutes with boiling hexane, then filtered to remove insoluble material. Upon cooling the filtrate, 9.0 g (63.8% yield) of 1-(2,4-dichlorophenoxy)-1-(1H- 1,2,4-triazol-1-yl)-3-methoxy-3-methyl-2-butanone, m.p. 53°-54° C., was obtained.

reactant | 1H-1,2,4-Triazole | 0.041 mole, 2.83 g | N1N=CN=C1 | C2H3N3
reactant | 1-bromo-1-(2,4-dichlorophenoxy)-3-methoxy-3-methyl-2-butanone | 0.041 mole, 14.6 g | BrC(C(C(C)(C)OC)=O)OC1=C(C=C(C=C1)Cl)Cl | C12H13BrCl2O3
reactant | 1,5-diazabicyclo[5.4.0]-undec-5-ene | 0.041 mole, 6.09 g | N12CCCN=CC2CCCC1 | C9H16N2
solvent | acetone | CC(=O)C | C3H6O
product | 1-(2,4-dichlorophenoxy)-1-(1H- 1,2,4-triazol-1-yl)-3-methoxy-3-methyl-2-butanone | 9.0 g, 63.8% yield | ClC1=C(OC(C(C(C)(C)OC)=O)N2N=CN=C2)C=CC(=C1)Cl | C14H15Cl2N3O3
